US04598080
2-Methyl-6-{4-[1-(4-fluorophenyl)-1-hydroxypropyl]-phenoxymethyl}-pyridine
To a Gringard reactant prepared from 2.2 g. of magnesium turnings and 25 g. of 4-[(6-methylpyrid-2-yl)-methoxy]-bromobenzene in 120 ml. of dry tetrahydrofurane a solution of 9.1 g. of 4-fluoropropiophenone in 45 ml. of tetrahydrofurane is added dropwise at 0° C. The reaction mixture is stirred at room temperature for two additional hours, and is then decomposed with a saturated aqueous ammonium chloride solution, under cooling. The aqueous phase is extracted with tetrahydrofurane. The tetrahydrofurane phase is washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and evaporated in vacuo. Crystallization of the crude product from a mixture of ethyl acetate and n-hexane yields 15.2 g. of the title compound, melting at 103° to 104° C.

reactant | magnesium | [Mg] | Mg
reactant | 4-[(6-methylpyrid-2-yl)-methoxy]-bromobenzene | CC1=CC=CC(=N1)COC1=CC=C(C=C1)Br | C13H12BrNO
reactant | 4-fluoropropiophenone | CCC(=O)C1=CC=C(C=C1)F | C9H9FO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 2-Methyl-6-{4-[1-(4-fluorophenyl)-1-hydroxypropyl]-phenoxymethyl}-pyridine | CC1=NC(=CC=C1)COC1=CC=C(C=C1)C(CC)(O)C1=CC=C(C=C1)F | C22H22FNO2
